US06127386
175a. 3-(1-BOC-2-(S)-azetidinylmethoxy)-6-chloro-5-(trimethylsilylethynyl)pyridine
To a solution of 3-(1-BOC-2-(S)-azetidinylmethoxy)-5-bromo-6-chloropyridine (1.0 g, 2.6 mmol) in toluene (20 mL) was added NEt3 (1 mL), copper (I) iodine (50 mg, 10%), tetrakis(triphenylphosphine)palladium (0) (305 mg, 10%) and (trimethylsilyl)acetylene (0.45 mL, 3.18 mmol). The reaction mixture was stirred and heated at 100° C. for 16 h. Solvent was evaporated and the residue was chromatographed (silica gel; hexane/EtoAc, 5:1 to 2:1) to afford an oil (770 mg, 74%): 1H NMR (CDCl3, 300 MHz) δ 1.42 (s, 9H), 2.20-2.40 (m, 2H), 3.80-3.92 (m, 2H), 4.10 (m, 1H), 4.30 (m, 1H), 4.50 (m, 1H), 7.37 (d, 1H, J=3.0 Hz), 8.05 (d, 1H, J=3.0 Hz); MS (CI/NH3) m/z 395 (M+H)+.

reactant | 3-(1-BOC-2-(S)-azetidinylmethoxy)-5-bromo-6-chloropyridine | 2.6 mmol, 1.0 g | C(=O)(OC(C)(C)C)N1[C@@H](CC1)COC=1C=NC(=C(C1)Br)Cl | C14H18BrClN2O3
reactant | NEt3 | 1 mL | CCN(CC)CC | C6H15N
reactant | (trimethylsilyl)acetylene | 3.18 mmol, 0.45 mL | C[Si](C)(C)C#C | C5H10Si
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper (I) iodine | 50 mg | [I+].[Cu+]
catalyst | tetrakis(triphenylphosphine)palladium | 305 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(1-BOC-2-(S)-azetidinylmethoxy)-6-chloro-5-(trimethylsilylethynyl)pyridine | 770 mg, 74% | C(=O)(OC(C)(C)C)N1[C@@H](CC1)COC=1C=NC(=C(C1)C#C[Si](C)(C)C)Cl | C19H27ClN2O3Si
